US05220050
Preparation of DL-N-[5-(p-Cyanophenyl)pentanoyl]-3-phenyl-beta-alanine
To a solution of 5-(p-cyanophenyl)pentanoic acid (1.00g, 4.93 mmol), dimethylformamide (10 mL), and pyridine (2 mL) was added N,N'-disuccinimidylcarbonate (1.24 g, 4.85 mmol) and 4-dimethylaminopyridine (60 mg, 0.493 mmol) under an argon atmosphere at 23° C. After 5 h, DL-3-amino-3-phenylpropionic acid (0.814 g, 4.93 mmol) was added as a solid, followed immediately by N,N'-diisopropylethyl amine (0.627 g, 4.85 mmol). After 20 h at 23° C., the reaction mixture was concentrated in vacuo. The residue was dissolved in ethyl acetate (300 mL), washed with KHSO4 (2×50 mL), washed with brine (1×50 mL), dried (Na2SO4), and concentrated in vacuo. The residue was purified by flash chromatography (2 liters ethyl acetate: chloroform:acetic acid 50:50:0.5 followed by 2 liters of ethyl acetate:methanol:acetic acid 89:10:1) to afford 850 mg (50%) of the title compound (compound 6 of Scheme D). The product was verified by C NMR (CDCl3) delta 24.9, 29.9, 35.3, 35.7, 40.5, 49.7, 109.1, 118.9, 126.1, 127.4, 128.5, 129.0, 131.9, 140.5, 147.8, 173.4, 176.4.

reactant | 5-(p-cyanophenyl)pentanoic acid | 4.93 mmol, 1.00g | C(#N)C1=CC=C(C=C1)CCCCC(=O)O | C12H13NO2
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | N,N'-disuccinimidylcarbonate | 4.85 mmol, 1.24 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | DL-3-amino-3-phenylpropionic acid | 4.93 mmol, 0.814 g | C1=CC=C(C=C1)C(CC(=O)O)N | C9H11NO2
catalyst | 4-dimethylaminopyridine | 0.493 mmol, 60 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-[5-(p-Cyanophenyl)pentanoyl]-3-phenyl-beta-alanine | 850 mg, 50% | C(#N)C1=CC=C(C=C1)CCCCC(=O)NC(CC(=O)O)C1=CC=CC=C1 | C21H22N2O3
